adc_converter
*-----------------------------------------------------------------------------
*NOTES
*-----------------------------------------------------------------------------


*-----------------------------------------------------------------------------
*Parameters: User Input
*-----------------------------------------------------------------------------
.PARAM p_Vdd 15
.PARAM vthreshold 1
.PARAM N_BITS 			4			; Number of bits | FIXED VALUE
.PARAM N_QUANT_LEVELS 	{2**N_BITS}	; Number of Discrete Quantization Levels
.PARAM QUANT_STEP 		{p_Vdd/N_QUANT_LEVELS}

.PARAM DAC_SAR_LIB 1001
*=============================================================================
* Calibration
*=============================================================================



*-----------------------------------------------------------------------------
*Libraries, Models and includes
*-----------------------------------------------------------------------------
.LIB ADC_SAR.LIB
.LIB DAC.LIB

*-----------------------------------------------------------------------------
*SUBCKT
*-----------------------------------------------------------------------------


*-----------------------------------------------------------------------------
*CIRCUIT
*-----------------------------------------------------------------------------
*  SOURCES
Vin in 0 PWL(0ms 1V 9.99ms 1V 10ms 5V 19.99ms 5V
+20ms	8V 	29.99ms 8V
+30ms	10V 39.99ms 10V
+40ms	7V 	50ms 	7V)

*  Fullscale
Vdd VDD 0 {p_Vdd}

*  CLK
Vclk clk 0 PWL(0 0 6.99ms 0 7ms 5 7.99ms 5 8ms 0 12.99ms 0
+13ms 5 13.99ms 5 14ms 0 31.99ms 0
+32ms 5 32.99ms 5 33ms 0 43.99ms 0
+44ms 5 44.99ms 5 45ms 0)


*//////////////////////////////////////////////////////////////////////////////////////////
* TASK 1
.SUBCKT 1000 IN VDD CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] OUT_DAC
* 8 BITS ADC SUBCIRCUIT
* .SUBCKT ADC_SAR_8bits_V2 in vdd clk vss out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0]
XADC_SAR_8bitsV2 in vdd CLK  0  out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ADC_SAR_8bits_V2
*-----------------------------------------------------------------------------------------

*  8 BITS DAC SUBBCIRCUIT
* .SUBCKT DAC_8bits bit[7] bit[6] bit[5] bit[4] bit[3] bit[2] bit[1] bit[0] VDD CLK VSS out
XDAC out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] VDD CLK 0 OUT_DAC DAC_8bits

.ENDS 1000
*//////////////////////////////////////////////////////////////////////////////////////////



*//////////////////////////////////////////////////////////////////////////////////////////
* TASK 2
.SUBCKT 1001 IN VDD CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] OUT_DAC
* 8 BITS ADC SUBCIRCUIT CLK
* .SUBCKT ADC_SAR_8bits_V2_CLK in vdd clk vss out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0]
XADC_SAR_8bitsV2_CLK  in vdd clk 0 out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ADC_SAR_8bits_V2_CLK
*-----------------------------------------------------------------------------------------
*  8 BITS DAC SUBBCIRCUIT CLK

* .SUBCKT DAC_8bits_clk bit[7] bit[6] bit[5] bit[4] bit[3] bit[2] bit[1] bit[0] VDD CLK VSS out
XDAC_V2_CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] VDD CLK 0 OUT_DAC DAC_8bits_clk
.ENDS 1001
*//////////////////////////////////////////////////////////////////////////////////////////



*//////////////////////////////////////////////////////////////////////////////////////////
* TASK 3
.SUBCKT 1002 IN VDD CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] OUT_DAC
* 8 BITS ADC SUBCIRCUIT CLK
XADC_SAR_8bitsV2_CLK  in vdd clk 0 out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ADC_SAR_8bits_V2_CLK
+N_BITS = 4
*-----------------------------------------------------------------------------------------
*  8 BITS DAC SUBBCIRCUIT CLK

* .SUBCKT DAC_8bits_clk bit[7] bit[6] bit[5] bit[4] bit[3] bit[2] bit[1] bit[0] VDD CLK VSS out
XDAC_V2_CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] VDD CLK 0 OUT_DAC DAC_8bits_clk
+N_BITS = 8
.ENDS 1002
*//////////////////////////////////////////////////////////////////////////////////////////



*//////////////////////////////////////////////////////////////////////////////////////////
* TASK 4
.SUBCKT 1003 IN VDD CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] OUT_DAC
* 8 BITS ADC SUBCIRCUIT CLK
* .SUBCKT ADC_SAR_8bits_CLK in vdd clk vss out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0]
XADC_SAR_8bits_CLK  in vdd clk 0 out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ADC_SAR_8bits_CLK

*-----------------------------------------------------------------------------------------
*  8 BITS DAC SUBBCIRCUIT CLK

* .SUBCKT DAC_8bits_CLK_V2 bit[7] bit[6] bit[5] bit[4] bit[3] bit[2] bit[1] bit[0] VDD CLK VSS out
XDAC_V2_CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] VDD CLK 0 OUT_DAC DAC_8bits_CLK_v2
.ENDS 1003
*//////////////////////////////////////////////////////////////////////////////////////////
* .SUBCKT 1000 IN VDD CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] OUT_DAC
XADC_DAC IN VDD CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] OUT_DAC {DAC_SAR_LIB}


*-----------------------------------------------------------------------------
*MEASUREMENTS
*-----------------------------------------------------------------------------
.INCLUDE meas_ADC_DAC.meas


*-----------------------------------------------------------------------------
* ANALYSIS
*-----------------------------------------------------------------------------
* .STEP PARAM DAC_SAR_LIB  LIST 1000 1001 1002 1003
* .STEP PARAM DAC_SAR_LIB  LIST 1001 1002 1003
.TRAN 0 50m 0 {15/256/10}
* [ltz] removed: .PROBE
.END
