adc_converter
*-----------------------------------------------------------------------------
*NOTES
*-----------------------------------------------------------------------------
* 275u de delay FOR MEASURMENTS
*-----------------------------------------------------------------------------
*Parameters: User Input
*-----------------------------------------------------------------------------
.PARAM p_Vdd 15

.PARAM N_BITS 			8						; Number of bits | FIXED VALUE
.PARAM N_QUANT_LEVELS 	{2**N_BITS}				; Number of Discrete Quantization Levels
.PARAM QUANT_STEP 		{p_Vdd/N_QUANT_LEVELS}

.PARAM clk_counter_period 	500u
.PARAM clk_counter_Ton		300u
*Testhbench Vin Values
.PARAM p_Vin_val1	1
.PARAM p_Vin_val2	5
.PARAM p_Vin_val3	8
.PARAM p_Vin_val4	10
.PARAM p_Vin_val5	7

.PARAM DAC_SAR_LIB 1001

*Simulation
.PARAM t_simulation_stop	50ms 				; It used too in the measurments
.PARAM Vin_Period			10ms

*Measurments
.PARAM vthreshold 1
*=============================================================================
* Calibration
*=============================================================================



*-----------------------------------------------------------------------------
*Libraries, Models and includes
*-----------------------------------------------------------------------------
.LIB ADC_SAR.LIB
.LIB DAC.LIB
.LIB Counter_2bits.lib

*-----------------------------------------------------------------------------
*CIRCUIT
*-----------------------------------------------------------------------------
*  SOURCES
Vin in 0 PWL(0ms {p_Vin_val1} {Vin_Period-0.1ms}  {p_Vin_val1}
+{Vin_Period}	{p_Vin_val2} {Vin_Period*2-0.1ms} {p_Vin_val2}
+{Vin_Period*2}	{p_Vin_val3} {Vin_Period*3-0.1ms} {p_Vin_val3}
+{Vin_Period*3}	{p_Vin_val4} {Vin_Period*4-0.1ms} {p_Vin_val4}
+{Vin_Period*4}	{p_Vin_val5} {t_simulation_stop}   {p_Vin_val5})

*  Fullscale
Vdd VDD 0 {p_Vdd}

*  CLK
Vclk clk 0 PWL(0 0 6.99ms 0 7ms {p_Vdd} 7.99ms {p_Vdd} 8ms 0 12.99ms 0
+13ms {p_Vdd} 13.99ms {p_Vdd} 14ms 0 31.99ms 0
+32ms {p_Vdd} 32.99ms {p_Vdd} 33ms 0 43.99ms 0
+44ms {p_Vdd} 44.99ms {p_Vdd} 45ms 0)

* CLK COUNTER
* Vclk_counter clk_counter 0 PULSE(0 5 0 1n 1n 170u 300u)
Vclk_counter clk_counter	0 PULSE(0 {P_vdd} 300U 1n 1n {clk_counter_Ton} {clk_counter_period})

* Vclk_counter clk_counter 0 PULSE(0 5 0 1n 1n 300u 500u)
*  Counter Funcionando
* Btest reset 0 V={IF(V(CLK)>=0.5,0,1)}

* A1 D1 0 clk_counter 0 Reset D1 ATB_SEL[0] 0 DFLOP TAU=1N
* A2 D2 0 D1 0 Reset D2 ATB_SEL[1] 0 DFLOP TAU=1N


* Counter V2
* .SUBCKT COUNTER_2BITS CLK_counter CLK OUT[0] OUT[1]
Xcounter_2bits	clk_counter CLK ATB_SEL[0] ATB_SEL[1] COUNTER_2BITS
+VDD = {p_Vdd}
*//////////////////////////////////////////////////////////////////////////////////////////
* TASK 1
.SUBCKT 1000 IN VDD CLK ATB_SEL[1] ATB_SEL[0] VSS out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB In_sample OUT_DAC
* 8 BITS ADC SUBCIRCUIT
* .SUBCKT ADC_SAR_8bits_V2 in vdd clk ATB_SEL[0] ATB_SEL[1] vss out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB in_sample ADC_SAR_8bits_V2
XADC_SAR_8bitsV2 in vdd CLK   ATB_SEL[1] ATB_SEL[0] VSS out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB In_sample ADC_SAR_8bits_V2
*-----------------------------------------------------------------------------------------

*  8 BITS DAC SUBBCIRCUIT
* .SUBCKT DAC_8bits bit[7] bit[6] bit[5] bit[4] bit[3] bit[2] bit[1] bit[0] VDD CLK VSS out
XDAC out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] VDD CLK 0 OUT_DAC DAC_8bits

.ENDS 1000
*//////////////////////////////////////////////////////////////////////////////////////////



*//////////////////////////////////////////////////////////////////////////////////////////
* TASK 2
.SUBCKT 1001 IN VDD CLK ATB_SEL[1] ATB_SEL[0] VSS out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB In_sample OUT_DAC
* 8 BITS ADC SUBCIRCUIT CLK
* .SUBCKT ADC_SAR_8bits_V2_CLK in vdd clk ATB_SEL[0] ATB_SEL[1] vss out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB in_sample
XADC_SAR_8bitsV2_CLK  in vdd CLK   ATB_SEL[1] ATB_SEL[0] VSS out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB In_sample ADC_SAR_8bits_V2_CLK
*-----------------------------------------------------------------------------------------
*  8 BITS DAC SUBBCIRCUIT CLK

* .SUBCKT DAC_8bits_clk bit[7] bit[6] bit[5] bit[4] bit[3] bit[2] bit[1] bit[0] VDD CLK VSS out
XDAC_V2_CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] VDD CLK 0 OUT_DAC DAC_8bits_clk
.ENDS 1001
*//////////////////////////////////////////////////////////////////////////////////////////



*//////////////////////////////////////////////////////////////////////////////////////////
* TASK 3
.SUBCKT 1002 IN VDD CLK ATB_SEL[1] ATB_SEL[0] VSS out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB In_sample OUT_DAC
* 8 BITS ADC SUBCIRCUIT CLK
XADC_SAR_8bitsV2_CLK  in vdd CLK   ATB_SEL[1] ATB_SEL[0] VSS out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB In_sample ADC_SAR_8bits_V2_CLK
+N_BITS = 4
*-----------------------------------------------------------------------------------------
*  8 BITS DAC SUBBCIRCUIT CLK

* .SUBCKT DAC_8bits_clk bit[7] bit[6] bit[5] bit[4] bit[3] bit[2] bit[1] bit[0] VDD CLK VSS out
XDAC_V2_CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] VDD CLK 0 OUT_DAC DAC_8bits_clk
+N_BITS = 8
.ENDS 1002
*//////////////////////////////////////////////////////////////////////////////////////////



*//////////////////////////////////////////////////////////////////////////////////////////
* TASK 4
.SUBCKT 1003 IN VDD CLK ATB_SEL[1] ATB_SEL[0] VSS out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB In_sample OUT_DAC
* 8 BITS ADC SUBCIRCUIT CLK
* .SUBCKT ADC_SAR_8bits_CLK in vdd clk vss out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0]
XADC_SAR_8bits_CLK  in vdd CLK   ATB_SEL[1] ATB_SEL[0] VSS out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB In_sample ADC_SAR_8bits_CLK

*-----------------------------------------------------------------------------------------
*  8 BITS DAC SUBBCIRCUIT CLK

* .SUBCKT DAC_8bits_CLK_V2 bit[7] bit[6] bit[5] bit[4] bit[3] bit[2] bit[1] bit[0] VDD CLK VSS out
XDAC_V2_CLK out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] VDD CLK 0 OUT_DAC DAC_8bits_CLK_v2
.ENDS 1003
*//////////////////////////////////////////////////////////////////////////////////////////

* 		IN VDD CLK ATB_SEL[0] ATB_SEL[1] VSS out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB Sample_Out
XADC_DAC in vdd CLK   ATB_SEL[1] ATB_SEL[0] 0 out[7] out[6] out[5] out[4] out[3] out[2] out[1] out[0] ATB in_sample OUT_DAC {DAC_SAR_LIB}


*-----------------------------------------------------------------------------
*MEASUREMENTS
*-----------------------------------------------------------------------------
.INCLUDE meas_ADC_DAC.meas

.MEASURE TRAN clk_counter_Vmax	MAX V(CLK_COUNTER)
.MEASURE TRAN clk_counter_T1  FIND TIME WHEN V(CLK_COUNTER)={clk_counter_Vmax/2} RISE=2
.MEASURE TRAN clk_counter_T2  FIND TIME WHEN V(CLK_COUNTER)={clk_counter_Vmax/2} RISE=3
.MEASURE TRAN clk_counter_Period PARAM {clk_counter_T2-clk_counter_T1}

.MEASURE TRAN atb0_quant_step_Ev0 AVG V(atb) TRIG TIME={T_Edge_EV0-TD1} Targ TIME={T_Edge_EV0}
.MEASURE TRAN atb0_quant_step_Ev1 AVG V(atb) TRIG TIME={T_Edge_EV1-TD1} Targ TIME={T_Edge_EV1}
.MEASURE TRAN atb0_quant_step_Ev2 AVG V(atb) TRIG TIME={T_Edge_EV2-TD1} Targ TIME={T_Edge_EV2}
.MEASURE TRAN atb0_quant_step_Ev3 AVG V(atb) TRIG TIME={T_Edge_EV3-TD1} Targ TIME={T_Edge_EV3}
.MEASURE TRAN atb0_quant_step_Ev4 AVG V(atb) TRIG TIME={t_simulation_stop-TD1} Targ TIME={t_simulation_stop-TD2}
.MEASURE TRAN Time_ATB_EV0 TIME WHEN V(ATB_SEL[0])=15/2 rise=1
.MEASURE TRAN atb1_quant_step_Ev0 FIND V(ATB) When time=Time_ATB_EV0
* MEAS TRAN atb2_quant_step_Ev0 FIND V(ATB) When V(ATB_SEL[0])=15 fall=1
.MEASURE TRAN atb2_quant_step_Ev0 FIND V(ATB) When time={Time_ATB_EV0+501U}
.MEASURE TRAN atb3_quant_step_Ev0 FIND V(ATB) When time={Time_ATB_EV0+1001U}

.MEASURE TRAN Time_ATB1 TIME WHEN V(ATB_SEL[0])=15/2 rise=3
* if($measurment eq @atb_measurments[0]){
* 					print FH ".MEAS TRAN atb_$measurment AVG V(ATB) TRIG TIME={T_Edge_EV$event-TD1} Targ TIME={T_Edge_EV$event-TD2}". "\n";
* 				}
* 			else{
* 					print FH ".MEAS TRAN T_Edge_Counter_EV_$measurment	FIND TIME WHEN V(clk_counter) = {Vclk_counter_max/2} RISE = $rise ","\n";
* 					print FH ".MEAS TRAN atb_$measurment AVG V(ATB) TRIG TIME={T_Edge_EV$event-TD1} Targ TIME={T_Edge_EV$event-TD2}"."\n";
* 				}
* 
* 			}

*-----------------------------------------------------------------------------
* ANALYSIS
*-----------------------------------------------------------------------------
* .STEP PARAM DAC_SAR_LIB  LIST 1003 1002 1001 1000
* .STEP PARAM DAC_SAR_LIB  LIST 1001 1002 1003

.TRAN 0 {t_simulation_stop} 0 {{p_Vdd}/{N_QUANT_LEVELS-1}/10}
* .TRAN 0 50ms 0 {15/256/10}
* [ltz] removed: .PROBE
.END
